US07728009B1
B. 1-{[2-(2-fluorophenyl)-1H-imidazol-5-yl]methyl}-4-isopropyl-1,4-diazepane
[2-(2-Fluorophenyl)-1H-imidazol-5-yl]methyl alcohol (69 mg, 0.36 mmol, prepared essentially as described in PCT International Publication No. WO 96/16040) is dissolved in SOCl2 (4 mL) and stirred at 65° C. for 1 hr. The reaction mixture is cooled to rt then concentrated in vacuo. The residue is dissolved in toluene, and then re-concentrated. The residue is suspended in CHCl3 (3 mL) at it Et3N (1 mL) is added, followed by 4-isopropyl-1,4-diazepane (0.8 mL, 0.4 mmol). The reaction mixture is stirred for 90 min at rt, and then the solvent is removed in vacuo. The residue is dissolved in CH2Cl2 and applied to a PTLC plate then eluted with EtOAc/MeOH/Et3N (10/2/1). The product is removed from the plate and the silica stirred in EtOAc/MeOH (10/1) then filtered. The filtrate is concentrated to give the title compound. 1H NMR 8.24 (br t, 1H), 7.30-7.21 (m, 2H), 7.13 (dd, 1H), 7.01 (s, 1H), 3.70 (s, 2H), 2.90 (m, 1H), 2.74-2.71 (m, 8H), 1.80 (br s, 2H), 1.06 (d, 3H), 1.02 (d, 3H).

reactant | [2-(2-Fluorophenyl)-1H-imidazol-5-yl]methyl alcohol | FC1=C(C=CC=C1)C=1NC(=CN1)CO | C10H9FN2O
reactant | 4-isopropyl-1,4-diazepane | 0.4 mmol, 0.8 mL | C(C)(C)N1CCNCCC1 | C8H18N2
solvent | SOCl2 | 4 mL | O=S(Cl)Cl | Cl2OS
product | 1-{[2-(2-fluorophenyl)-1H-imidazol-5-yl]methyl}-4-isopropyl-1,4-diazepane | FC1=C(C=CC=C1)C=1NC(=CN1)CN1CCN(CCC1)C(C)C | C18H25FN4
